US05525589
300 g (2 mol) of 3-tert.butylphenol are hydrogenated in the presence of 3 g of palladium-on-active charcoal 5% and 3 g of anhydrous sodium carbonate at 0.15-0.3 bar hydrogen over-pressure and 115° C. In an autoclave for 21 hours. The mixture is then filtered over Celite. The Celite is washed with ether and the solution is evaporated. In this manner there are obtained 310.8 g of crude product, namely 1.5% trans-tert.butylcyclohexanol, 3.5% cis-tert.butylcyclohexanol, 86% 3-tert.butylcyclohexanone and 7.6% 3-tert.butylphenol. This product can be purified by distillation. There are obtained 232 g (75%) of 3-tert.butylcyclohexanone, b.p. 75°-76° C., 2 mbar (olfactorily acceptable, purity 94%) in addition to 11.3 g (3.6%) of impure material (purity 92%).

reactant | 3-tert.butylphenol | 2 mol, 300 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | sodium carbonate | 3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 3 g | [Pd] | Pd
product | 3-tert.butylcyclohexanone | 232 g, 75% | C(C)(C)(C)C1CC(CCC1)=O | C10H18O
